US06498164B1
To a solution of 1,3-dibenzylbarbituric acid 154 mg (0.500 mmol) in dry dichloromethane 2.0 mL under a nitrogen atmosphere, added was pyridine 1.0 mL (12 mmol) and stirred at 0° C. Added was 2-thienylacetyl chloride 80 mg (0.50 mmol, 1.00 equivalent) in dichloromethane 1.0 mL to the solution slowly during a period of 20 minutes, then stirred at room temperature for 3 hours. Added was ether 50 mL and washed the organic layer with 2 M hydrochloric acid and saturated brine, and dried over sodium sulfate. Purified was the crude product 216 mg after removal of the solvent under the reduced pressure, by column chromatography (silica gel, eluted with dichloromethane). It obtained 1,3-dibenzyl-5-(2-thienylacetyl)barbituric acid 153 mg as yellow viscous oil (56.9% yield).

reactant | 1,3-dibenzylbarbituric acid | 0.500 mmol, 154 mg | C(C1=CC=CC=C1)N1C(=O)N(C(=O)CC1=O)CC1=CC=CC=C1 | C18H16N2O3
reactant | pyridine | 12 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-thienylacetyl chloride | 0.50 mmol, 80 mg, 1.00 equivalent | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 1,3-dibenzyl-5-(2-thienylacetyl)barbituric acid | 153 mg, 56.9% yield | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C(C1=O)C(CC=1SC=CC1)=O)CC1=CC=CC=C1 | C24H20N2O4S
